US08022062B2
(±)-2-(1-Bromoethyl)-pyridine
To (±)-2-(1-hydroxyethyl)-pyridine (Bull. Chem. Soc. Jpn. 1990, 63, 461-465) (10.0 g, 81.3 mmol) in DCM (120 mL) at 0° C., add with stirring triphenylphosphine (22.39 g, 85.365 mmol) followed by NBS (15.2 g, 85.4 mmol) in portions. Warm the reaction mixture to ambient temperature and continue stirring for 3 h. Concentrate in vacuo and purify by chromatography on silica gel eluting with hexane/EtOAc (19:1) to give the title compound.

reactant | (±)-2-(1-hydroxyethyl)-pyridine | 81.3 mmol, 10.0 g | OC(C)C1=NC=CC=C1 | C7H9NO
reactant | triphenylphosphine | 85.365 mmol, 22.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NBS | 85.4 mmol, 15.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-(1-Bromoethyl)-pyridine | BrC(C)C1=NC=CC=C1 | C7H8BrN
